US08623896B2
To a suspension of 4-formyl-2-methyl-benzoic acid tert-butyl ester (Example I17) (60.3 g) and hydroxylamine hydrochloride (38.05 g) in ethanol (580 ml) was added a solution of sodium hydrogen carbonate (46 g) in water (60 ml). The reaction mixture was stirred at 50° C. for 3.5 hours. The solvent was removed and the residue diluted with ethyl acetate and water. The phases were separated and the organic layer was washed with water, dried over sodium sulfate and concentrated. The residue was crystallized from ethyl acetate and heptane to give 4-(hydroxyimino-methyl)-2-methyl-benzoic acid tert-butyl ester (35.72 g) as a white crystalline powder. 1H-NMR (CDCl3, 400 MHz): 7.86 (s, 1H), 7.70 (s, 1H), 7.45 (m, 2H), 2.60 (s, 3H), 1.60 (s, 9H).

reactant | 4-formyl-2-methyl-benzoic acid tert-butyl ester | 60.3 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C=O)C)=O | C13H16O3
reactant | hydroxylamine hydrochloride | 38.05 g | Cl.NO
reactant | sodium hydrogen carbonate | 46 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 580 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | 4-(hydroxyimino-methyl)-2-methyl-benzoic acid tert-butyl ester | 35.72 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C=NO)C)=O | C13H17NO3
